US07153878B2
2-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propionaldehyde
5-(2-Methoxy-1-methyl-vinyl)-4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole (7.0 g, 22.3 mmol) in THF (200 mL) is treated with concentrated HCl aqueous solution (7 mL) at 50° C. for 2 hours. The reaction mixture is diluted with ethyl acetate, washed with sodium bicarbonate aqueous solution, dried over sodium sulfate. Concentration and column chromatography on silica gel provided the title compound (3.5 g).

reactant | 5-(2-Methoxy-1-methyl-vinyl)-4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole | 22.3 mmol, 7.0 g | COC=C(C)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C15H14F3NOS
reactant | HCl | 7 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propionaldehyde | 3.5 g | CC=1N=C(SC1C(C=O)C)C1=CC=C(C=C1)C(F)(F)F | C14H12F3NOS
